US09024027B2
To a solution of N,N-dimethyl-2,3-dioxoindoline-5-sulfonamide (0.639 g, 2.51 mmol) in dry DMF (10 ml), cooled at 0° C. under nitrogen, NaH (60% dispersion in mineral oil, 0.111 g, 2.76 mmol) was added. The mixture turned dark blue. After stirring at 0° C. for 30 minutes, tert-butyl bromoacetate (0.446 ml, 3.02 mmol) was added, and the mixture was stirred at room temperature for 36 hours. The mixture was partitioned between ethyl acetate and brine and the aqueous phase was extracted three times with ethyl acetate. The combined organic layers were dried over sodium sulfate and evaporated to dryness affording tert-butyl 2-(5-(N,N-dimethylsulfamoyl)-2,3-dioxoindolin-1-yl)acetate (0.926 g, 2.51 mmol). MS/ESI+ 368.9 [MH]+.

reactant | N,N-dimethyl-2,3-dioxoindoline-5-sulfonamide | 2.51 mmol, 0.639 g | CN(S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O)C | C10H10N2O4S
reactant | NaH | 2.76 mmol, 0.111 g | [H-].[Na+]
reactant | tert-butyl bromoacetate | 3.02 mmol, 0.446 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | tert-butyl 2-(5-(N,N-dimethylsulfamoyl)-2,3-dioxoindolin-1-yl)acetate | 2.51 mmol, 0.926 g | CN(S(=O)(=O)C=1C=C2C(C(N(C2=CC1)CC(=O)OC(C)(C)C)=O)=O)C | C16H20N2O6S
